US06150355
To an ice-cooled suspension of 6,11-dihydrodibenzo[b,e] oxepine-11-ol (4.0 g) in methylene chloride (80 ml) was added thionyl chloride (2.74 ml). The mixture was stirred at room temperature for 1 hour. The reaction mixture was then concentrated under reduced pressure to give 11-chloro-6,11-dihydrodibenzo[b,e] oxepine as an oily substance. The whole substance was used for next reaction without isolation and purification.

reactant | 6,11-dihydrodibenzo[b,e] oxepine-11-ol | 4.0 g | C1=CC=CC=2OCC3=C(C(C21)O)C=CC=C3 | C14H12O2
reactant | thionyl chloride | 2.74 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 11-chloro-6,11-dihydrodibenzo[b,e] oxepine | ClC1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C14H11ClO
